US09340527B2
1-[7-(trans-4-tert-Butyl-cyclohexyloxy)-isoquinolin-3-ylmethyl]-piperidine-4-carboxylic acid ethyl ester
Triethylamine (65 μL, 0.47 mmol) was added to a solution of 7-(trans-4-tert-Butyl-cyclohexyloxy)-isoquinoline-3-carbaldehyde (0.106 g, 0.340 mmol) and Ethyl piperidine-4-carboxylate (79 mg, 0.50 mmol) in 1,2-Dichloroethane (5.00 mL) and the mixture was stirred for 1 hour at room temperature. Sodium triacetoxyborohydride (0.101 g, 0.476 mmol) was then added and stirring was continued for 2 hours. The reaction was diluted in methylene chloride and washed with saturated aqueous sodium bicarbonate. The organic phase was dried over magnesium sulfate, filtered, evaporated. The residue was taken up in methylene chloride and silica gel was added. The solvent was removed by evaporation and the residue purified by silica gel chromatography. 101 mg (66%) isolated. ESI-MS (M+H+): 453.10.

reactant | Triethylamine | 0.47 mmol, 65 μL | C(C)N(CC)CC | C6H15N
reactant | 7-(trans-4-tert-Butyl-cyclohexyloxy)-isoquinoline-3-carbaldehyde | 0.340 mmol, 0.106 g | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC1=CC=C2C=C(N=CC2=C1)C=O | C20H25NO2
reactant | Ethyl piperidine-4-carboxylate | 0.50 mmol, 79 mg | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | Sodium triacetoxyborohydride | 0.476 mmol, 0.101 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-Dichloroethane | 5.00 mL | ClCCCl | C2H4Cl2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-[7-(trans-4-tert-Butyl-cyclohexyloxy)-isoquinolin-3-ylmethyl]-piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1CCN(CC1)CC=1N=CC2=CC(=CC=C2C1)O[C@@H]1CC[C@H](CC1)C(C)(C)C | C28H40N2O3
